US04082751
Preparation 52: 1,6-Dihydro-6-oxo-2-(2-ethoxyphenyl)pyrimidine-5-carbonitrile
A solution of 1,6-dihydro-6-oxo-2-(2-ethoxyphenyl)pyrimidine-5-carboxamide (5.5 g.) in phosphorus oxychloride (160 ml.) was heated under reflux for 3.5 hours. The solution was evaporated under reduced pressure to a thick oil which was treated with water (150 ml.) with vigorous stirring. The mixture was filtered. The collected solid was washed with water, dried, and recrystallized from glacial acetic acid to give the title compound (3.48 g., 68% yield), m.p. 186°-187°.

reactant | 1,6-dihydro-6-oxo-2-(2-ethoxyphenyl)pyrimidine-5-carboxamide | 5.5 g | O=C1C(=CN=C(N1)C1=C(C=CC=C1)OCC)C(=O)N | C13H13N3O3
solvent | phosphorus oxychloride | 160 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1,6-Dihydro-6-oxo-2-(2-ethoxyphenyl)pyrimidine-5-carbonitrile | 3.48 g, 68% yield | O=C1C(=CN=C(N1)C1=C(C=CC=C1)OCC)C#N | C13H11N3O2
